US04278808
162.5 g Methyl caproate (1.25 mole), 28 g 96% sodium methylate (0.5 mole), and 10 ml methanol were reacted with carbon monoxide in the manner described in Example 4, and approximately 100 g crude sodium enolate of 2-formylcaproic acid methyl ester was obtained as an evaporation residue. It was suspended in 180 ml dimethylacetamide and mixed with 103 g 4-chlorobutyl bromide. The mixture was stirred about 4-6 hours at 65°-70° C., and worked up in a manner analogous to the procedure of Example 5. 74.5 g 3-(4-chlorobutoxy)-2-butyl-acrylic acid methyl ester boiling at 155° C./2 torr was obtained for a 60% yield based on the sodium methylate employed.

reactant | Methyl caproate | 1.25 mole, 162.5 g | C(CCCCC)(=O)OC | C7H14O2
reactant | sodium methylate | 0.5 mole, 28 g | C[O-].[Na+]
reactant | carbon monoxide | [C]=O | CO
reactant | 2-formylcaproic acid methyl ester | COC(C(CCCC)C=O)=O | C8H14O3
reactant | 4-chlorobutyl bromide | 103 g | ClCCCCBr | C4H8BrCl
solvent | dimethylacetamide | 180 ml | CC(=O)N(C)C | C4H9NO
solvent | methanol | 10 ml | CO | CH4O
product | 3-(4-chlorobutoxy)-2-butyl-acrylic acid methyl ester | 74.5 g, 60% yield | COC(C(=COCCCCCl)CCCC)=O | C12H21ClO3
